*4027 JK Flip-Flop MCE Nodes: S,J,CP,K,R,QN,Q
*MCE mixed-mode JK Flip-Flop pkg:DIP16 (A:7,6,3,5,4,2,1)(B:9,10,13,11,12,14,15)
.SUBCKT X4027 4 14 6 5 3 8 9
XU5D 3 13 7404
XU5C 4 15 7404
XU5A 5 7 7404
XU2B 11 6 12 10 7410
XU2A 16 13 6 11 7410
XU1C 15 12 11 16 7410
XU1A 15 11 8 9 7410
XU1B 9 10 13 8 7410
XU3A 10 13 14 8 18 7421
XU3B 10 9 13 7 17 7421
XU4A 18 17 12 7402
.IC V(8)=0V V(9)=4.5V
.ENDS X4027
