
*74LS112 JK Flip-Flop MCE Nodes: S,J,CP,K,R,QN,Q
*MCE mixed-mode JK Flip-Flop pkg:DIP16 (A:4,3,1,2,15,6,5)(B:10,11,13,12,14,7,9)
.SUBCKT X74LS112 14 13 5 3 12 7 8
XU5B 5 4 7404
XU5A 3 6 7404
XU2B 10 4 11 9 7410
XU2A 15 12 4 10 7410
XU1C 14 11 10 15 7410
XU1A 14 10 7 8 7410
XU1B 8 9 12 7 7410
XU3A 9 12 13 7 17 7421
XU3B 9 8 12 6 16 7421
XU4A 17 16 11 7402
.IC V(4)=0V V(7)=0V V(8)=4.5V
.ENDS X74LS112
