
*74LS30 MCE Nodes: A,B,C,D,E,F,G,H,Y
*MCE mixed-mode 8-input NAND gate pkg:DIP14 1,2,3,4,5,6,11,12,8
.SUBCKT X74LS30 1 2 3 4 5 6 7 8 9
BNLVs1 10 0 V=~(V(1)&v(2)&v(3)&v(4)&v(6)&v(7)&v(8))
R1 10 9 1
C1 9 0 .004uF IC=0V
.ENDS X74LS30
