*4002 MCE Nodes: A,B,C,D,Y
*MCE mixed-mode 4-input NOR gate pkg:DIP14 (A:2,3,4,5,1)(B:9,10,11,12,13)
.SUBCKT X4002 1 2 3 4 5
BNLVs1 6 0 V=~(V(1) | v(2) | v(3) | v(4))
R1 6 5 1
C1 5 0 .004uF IC=0V
.ENDS X4002
