*4078 MCE Nodes: A,B,C,D,E,F,G,H,Y
*MCE mixed-mode 8-input NOR gate pkg:DIP14 2,3,4,5,9,10,11,12,13
.SUBCKT X4078 1 2 3 4 5 6 7 8 9
BNLVs1 10 0 V=~(V(1)|v(2)|v(3)|v(4)|v(6)|v(7)|v(8))
R1 10 9 1
C1 9 0 .004uF IC=0V
.ENDS X4078
