*Generic contact pins: COM NC NO COIL
*XCONTACTS:Relay Contact Subcircuit Parameters
*XCONTACTS:RESISTANCE:|Contact resistance [0,]|0.1
*{RESISTANCE=0.1}
*Generic alias:XCONTACTS
.SUBCKT XCONTACTS 1 2 3 4
SW1 2 1 4 0 SWNC ON
SW2 3 1 4 0 SWNO ON
.MODEL SWNC SW(VT=0.5 RON={RESISTANCE} ROFF=1g)
.MODEL SWNO SW(VT=0.5 RON=1g ROFF={RESISTANCE})
.ENDS XCONTACTS

*Contacts alias:XCONTACTS
.PARAM ANORMAL

