*======================================================
*Diode KAK pinout: 1=Cathode1, 2=CommonAnode 3=Cathode2
*======================================================

*BAW56 MCE 2-27-96
* 70V 200mA 6ns Si Dual Switching Diode pkg:SOT-23 2,1,3
.SUBCKT XBAW56 1 2 3
D1 2 1 BAW56
D2 2 3 BAW56
.MODEL BAW56 D (IS=24.2N RS=42M N=2.18 BV=70 IBV=66U
+ CJO=1.65P VJ=.75 M=.333 TT=8.64N)
.ENDS XBAW56
