
*====================================
*  HA-5002
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-5002 MACRO-MODEL
*  REV:  12-2-93 to fix CP value
*  D.W. RIEMER
*
*  PINOUT: IN OUT VCC VEE
*
.SUBCKT HA5002 3 2 4 5
.MODEL D1  D  IS=5.57E-11 N=1 RS=10
.MODEL D2  D  IS=3E-11 N=1 RS=10
*
*  INPUT STAGE
*  OFFSET VOLTAGE MAY BE VARIED BY
*  ADJUSTING THE VALUE OF SOURCE VIO.
*
CI 3 0 1E-12
LI 3 12 2E-09
VIO 12 18 3E-03
IP 4 7 1E-05
CP 4 7 8E-15
IN 13 5 7E-06
CN 13 5 6.66E-15
DO2 11 13 D2
DI2 18 13 D2
DO1 7 11 D2
DI1 7 18 D1
*
*  SINGULARITES
*  GAIN MAY BE ADJUSTED BY CHANGING
*  THE VALUE OF EP1 (0.995->?)
*
EP1 15 0 11 0 0.995
EP2 17 0 14 0 1
EP3 16 0 6 0 1
GP4 0 1 8 0 1
RP1 15 14 600
RP2 17 6 350
RP3 16 8 100
RP4 1 10 1  
CP1 14 0 1E-12
CP2 6 0 1E-12
CP3 8 0 1E-12
CP4 1 0 2E-09
LP4 10 0 2E-09
*  OUTPUT STAGE
IPS 4 5 8.3E-03
EO 19 0 1 0 1
RO 19 9 3 
LO 9 2 1E-09
CO 2 0 1E-12
.ENDS HA5002

*====================================
*  HA-5033
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-5033 MACRO-MODEL
*  REV:  7-29-91
*  D.W. RIEMER
*
*  PINOUT:  IN OUT VCC VEE
*
.SUBCKT HA5033 2 1 3 4
.MODEL D1  D  IS=5.57E-11 N=1 RS=10
*
*  INPUT STAGE
*  OFFSET VOLTAGE MAY BE VARIED BY
*  ADJUSTING THE VALUE OF SOURCE VIO.
*
VIO 2 6 3E-03
RIN 6 0 1.5E+06
CIN 6 0 1E-12
IIN 6 0 2E-05
IP 3 12 2E-04
IN 13 4 2E-04
DO1 12 7 D1
DI2 6 13 D1
DO2 7 13 D1
DI1 12 6 D1
CP 7 0 7.5E-14
*
*  SINGULARITIES
*  GAIN MAY BE ADJUSTED BY CHANGING
*  THE VALUE OF EP1 (0.995->?)
*
EP1 14 0 7 0 0.995
EP2 15 0 5 0 1
ECP 11 0 9 0 1
RP1 14 5 500
RP2 15 9 100
RCP 11 8 1E+03
LCP 8 10 7.5E-07
CP1 5 0 1E-12
CP2 9 0 1E-12
CCP 10 0 6E-13
*  OUTPUT STAGE
IPS 3 4 2.1E-03
EO 16 0 10 0 1
RO 16 1 1
CO 1 0 1E-12
.ENDS HA5033

