*4013 D Flip-Flop MCE Nodes: S,D,CP,R,QN,Q
*MCE mixed-mode D Flip-Flop pkg:DIP14 (A:6,5,3,4,2,1)(B:8,9,11,10,12,13)
.SUBCKT X4013 5 9 7 6 3 4
XU1A 12 8 3 4 7410
XU1B 4 10 13 3 7410
XU1C 13 10 9 11 7410
XU2A 8 7 11 13 7410
XU2B 14 10 7 8 7410
XU2C 12 11 8 14 7410
XU3A 5 12 7404
XU3B 6 10 7404
.IC V(3)=0V V(4)=4.5V
.ENDS X4013
