
*74LS74 D Flip-Flop MCE Nodes: S,D,CP,R,QN,Q
*MCE mixed-mode D Flip-Flop pkg:DIP14 (A:4,2,3,1,6,5)(B:10,12,11,13,8,9)
.SUBCKT X74LS74 10 7 5 8 3 4
XU1A 10 6 3 4 7410
XU1B 4 8 11 3 7410
XU1C 11 8 7 9 7410
XU2A 6 5 9 11 7410
XU2B 12 8 5 6 7410
XU2C 10 9 6 12 7410
.IC V(3)=0V V(4)=4.5V
.ENDS X74LS74
