
*74LS00 MCE Nodes: A,B,Y
*MCE mixed-mode 2-input NAND gate pkg:DIP14 (A:1,2,3)(B:4,5,6)(C:10,9,8)(D:12,13,11)
.SUBCKT X74LS00 3 4 5
BNLVs1 1 0 V=~(V(3) & v(4))
R1 1 5 1
C1 5 0 .004uF IC=0V
.ENDS X74LS00

*74LS37 MCE Nodes: A,B,Y
*MCE mixed-mode 2-input NAND gate pkg:DIP14 (A:1,2,3)(B:4,5,6)(C:10,9,8)(D:12,13,11)
.SUBCKT X74LS37 3 4 5
BNLVs1 1 0 V=~(V(3) & v(4))
R1 1 5 1
C1 5 0 .004uF IC=0V
.ENDS X74LS37

